US07384934B2
(S)-2-Trifluoromethyl-11-[3-(3-methoxy-propyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine
Add (S)-2-trifluoromethyl-11-[3-(3-methoxy-propyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine (0.167 g, 0.399 mmol), formaldehyde (40.8 mg, 0.499 mmol, 37%), and sodium triacetoxyborohydride (0.127 g, 0.598 mmol) in dichloromethane (3 mL). Stir at ambient temperature over night. Dilute the mixture with water and extract with dichloromethane. Wash the organic with brine twice, dry over sodium sulfate, filter, and concentrate under reduced pressure to give crude residue. Purify the residue by flash chromatography, eluting with 2M ammonia in methanol:dichloromethane (5:95) to give the title compound: mass spectrum (m/e):433.08 (M+1).

reactant | (S)-2-trifluoromethyl-11-[3-(3-methoxy-propyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | 0.399 mmol, 0.167 g | FC(C1=CC2=C(NC3=C(N=C2N2C[C@@H](NCC2)CCCOC)C=CC=C3)C=C1)(F)F | C22H25F3N4O
reactant | formaldehyde | 0.499 mmol, 40.8 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.598 mmol, 0.127 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (S)-2-Trifluoromethyl-11-[3-(3-methoxy-propyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | FC(C1=CC2=C(NC3=C(N=C2N2C[C@@H](N(CC2)C)CCCOC)C=CC=C3)C=C1)(F)F | C23H27F3N4O
